US05807886
To a stirred solution of 2-(7-nitro-(1,2,3,4-tetrahydronaphthyl))-N (phenylmethyl)trifluoroacetamide (2.55 g, 6.75 mmol) in THF/MeOH (100 ml, 1:1) was added a catalytic amount of 10% Pd/C. The mixture was hydrogenated at 50 psi for 1 hr, filtered through celite, and concentrated to give 2-(7-amino-(1,2,3,4-tetrahydronaphthyl))-N-(phenylmethyl) trifluoroacetamide which was homogeneous by TLC and used immediately in the next step.

reactant | 2-(7-nitro-(1,2,3,4-tetrahydronaphthyl))-N (phenylmethyl)trifluoroacetamide | 6.75 mmol, 2.55 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)C(C(=O)N(CC1=CC=CC=C1)F)(F)F | C19H17F3N2O3
solvent | THF MeOH | 100 ml | C1CCOC1.CO
catalyst | Pd/C | [Pd] | Pd
product | 2-(7-amino-(1,2,3,4-tetrahydronaphthyl))-N-(phenylmethyl) trifluoroacetamide | NC1=CC=C2CCCC(C2=C1)C(C(=O)N(CC1=CC=CC=C1)F)(F)F | C19H19F3N2O
